US07456164B2
(S)-2-Methoxymethyl-1-{4-[4-(3-pyrrolidin-1-ylpropoxy)-phenyl]tetrahydropyran-4-ylmethyl}pyrrolidine
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (350 mg, 1.103 mmol), (s)-(+)-2-(methoxymethyl)pyrrolidine (230 mg, 2.00 mmol), absolute ethanol (40 ml), activated 3 Å molecular sieves (350 mg), titanium (IV) isopropoxide (1.62 ml, 5.48 mmol) and STAB (2.09, 9.74 mmol) were reacted in accordance with the general procedure D. The isolated crude product was purified by column chromatography on silica eluting with DCM:MeOH:NH3 (98:1:1) to give the title compound as a white solid (330 mg, 72%). 1H NMR (400 MHz, CDCl3) δ7.18 (d, 2H), 6.86 (d, 2H), 4.02 (t, 2H), 3.84-3.70 (m, 2H), 3.59 (td, 1H), 3.45 (td, 1H), 3.27 (s, 3H), 3.10 (dd, 1H), 3.02 (dd, 1H), 2.94 (d, 1H), 2.63 (t, 2H), 2.59-2.45 (m, 5H), 2.39 (m, 1H), 2.21 (m, 1H), 2.06-1.34 (m, 15H).

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 1.103 mmol, 350 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
reactant | (s)-(+)-2-(methoxymethyl)pyrrolidine | 2.00 mmol, 230 mg | COC[C@H]1NCCC1 | C6H13NO
catalyst | titanium (IV) isopropoxide | 5.48 mmol, 1.62 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | (S)-2-Methoxymethyl-1-{4-[4-(3-pyrrolidin-1-ylpropoxy)-phenyl]tetrahydropyran-4-ylmethyl}pyrrolidine | 330 mg, 72% | COC[C@H]1N(CCC1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C25H40N2O3
